US08034812B2
Production of N-[3-(imidazo[1,2-b]pyridazin-6-yloxy)phenyl]-N′-[3-(trifluoromethyl)phenyl]urea
To a solution of 3-(imidazo[1,2-b]pyridazin-6-yloxy)aniline (181 mg, 0.80 mmol) and triethylamine (0.040 mL, 0.29 mmol) in tetrahydrofuran (10 mL) was added 3-(trifluoromethyl)phenyl isocyanate (0.154 mL, 1.12 mmol), and the mixture was stirred at room temperature for 18 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→90/10) and precipitated from methanol to give the title compound (205 mg, 62%) as a white powder.

reactant | 3-(imidazo[1,2-b]pyridazin-6-yloxy)aniline | 0.80 mmol, 181 mg | N=1C=CN2N=C(C=CC21)OC=2C=C(N)C=CC2 | C12H10N4O
reactant | triethylamine | 0.29 mmol, 0.040 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenyl isocyanate | 1.12 mmol, 0.154 mL | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[3-(imidazo[1,2-b]pyridazin-6-yloxy)phenyl]-N′-[3-(trifluoromethyl)phenyl]urea | 205 mg, 62% | N=1C=CN2N=C(C=CC21)OC=2C=C(C=CC2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F | C20H14F3N5O2
